US06124297
The mother liquor remaining after separation of the above crop of crystals was concentrated and the insoluble residue was dissolved in EtOH, diluted with toluene and concentrated. The above procedure was carried out for a total of 3 times to recover 9.04 g of crude 6-chloro-3-pyridylmethyl chloride as an oil. (5) In 50 ml of water was suspended 15.0 g (0.076 mole) of 6-chloro-3-pyridylmethyl chloride hydrochloride and the suspension was adjusted to pH about 8 with a saturated aqueous solution of sodium hydrogen carbonate. The resulting mixture was extracted with ether (100 ml×3) and dried over MgSO4. The ether was then distilled off under reduced pressure to give a crystalline residue. After addition of hexane, the crystals were recovered by filtration, washed with hexane and dried to give 11.0 g of 6-chloro-3-pyridylmethyl chloride as white prisms.

reactant | 6-chloro-3-pyridylmethyl chloride hydrochloride | 0.076 mole, 15.0 g | Cl.ClC1=CC=C(C=N1)CCl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hexane | CCCCCC | C6H14
product | 6-chloro-3-pyridylmethyl chloride | 11.0 g | ClC1=CC=C(C=N1)CCl | C6H5Cl2N
